US07700641B2
Synthesis of ethyl(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)acetate
Following the procedure as described in EXAMPLE 1, and making non-critical variations using ethyl[4-bromo-3-(4,5-difluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate to replace 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one, the title compound was obtained in 81% yield: MS (ES+) m/z 438.4 (M+1), 440.4 (M+1).

reactant | ethyl[4-bromo-3-(4,5-difluoro-2-hydroxyphenyl)-3-(hydroxymethyl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)(CO)C1=C(C=C(C(=C1)F)F)O)=O)=O | C19H16BrF2NO5
reactant | 1-(2-cyclopropylethyl)-3-(6-hydroxy-1,3-benzodioxol-5-yl)-3-(hydroxymethyl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(CO)C1=CC2=C(OCO2)C=C1O)=O | C21H21NO5
product | ethyl(4′-bromo-5,6-difluoro-2′-oxospiro[1-benzofuran-3,3′-indol]-1′(2′ H)-yl)acetate | 81% yield | C(C)OC(CN1C(C2(C3=C(C=CC=C13)Br)COC1=C2C=C(C(=C1)F)F)=O)=O | C19H14BrF2NO4
